US05047411
The mixture of 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine (2.5 g) and methyl isocyanate (0.6 ml) in tetrahydrofuran (25 ml) and methanol (2.5 ml) was stirred for 1 hour at ambient temperature. To the reaction mixture was added ethyl acetate (30 ml) and the precipitate was collected by filtration. The precipitate was washed with ethyl acetate and dried to give 3,7-dimethyl-2-[2-{3-hydroxy-4-(3-methylureido)phenyl}ethyl]imidazo[1,2-a]pyridine (2.92 g).

reactant | 2-[2-(4-amino-3-hydroxyphenyl)ethyl]-3,7-dimethylimidazo[1,2-a]pyridine | 2.5 g | NC1=C(C=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1C)O | C17H19N3O
reactant | methyl isocyanate | 0.6 ml | CN=C=O | C2H3NO
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.5 ml | CO | CH4O
product | 3,7-dimethyl-2-[2-{3-hydroxy-4-(3-methylureido)phenyl}ethyl]imidazo[1,2-a]pyridine | 2.92 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC(=C(C=C2)NC(=O)NC)O | C19H22N4O2
